US06969725B2
In analogy to the procedure described in example 1 g], (S)-3-{4-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-2-ethoxy-propionic acid methyl ester was treated with LiOH to obtain (S)-3-{4-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-2-ethoxy-propionic acid as colorless solid.

reactant | (S)-3-{4-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-2-ethoxy-propionic acid methyl ester | COC([C@H](CC1=C(C=C(C=C1C)OCC=1N=C(OC1C)C1=CC(=CC=C1)Cl)C)OCC)=O | C25H28ClNO5
reactant | LiOH | [Li+].[OH-]
product | (S)-3-{4-[2-(3-chloro-phenyl)-5-methyl-oxazol-4-ylmethoxy]-2,6-dimethyl-phenyl}-2-ethoxy-propionic acid | ClC=1C=C(C=CC1)C=1OC(=C(N1)COC1=CC(=C(C(=C1)C)C[C@@H](C(=O)O)OCC)C)C | C24H26ClNO5
